US06727264B1
N-[3-(1-{6-(2-FLUOROPHENYL)-6-[2-FLUORO-5-(TRIFLUOROMETHYL)PHENOXY]HEXYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using 2-fluoro-5-(trifluoromethyl)phenol and N-(3-(1-[6-(2-fluorophenyl)-6-hydroxyhexyl]-4-piperidinyl}phenyl)-2-methylpropanamide: 1H NMR (400 MHz, CDCl3), HCl salt δ 8.35 (s, 1H), 7.68-6.82 (m, 11H), 5.58-5.48 (m, 1H), 3.64-3.50 (m, 2H), 3.01-2.94 (m, br, 2H), 2.92-2.54 (m, 4H), 2.48-2.32 (m, br, 2H), 2.20-2.04 (m, 1H), 2.01-1.80 (m, 5H), 1.70-1.54 (m, 1H), 1.54-1.36 (m, 3H), 1.25 (d, 6H, J=7.2 Hz). Anal. Calc. for C34H40ClF5N2O2.0.6MeOH: C, 63.12; H, 6.49; N, 4.25; Found: C, 63.38; H, 6.61; N, 3.95. ESMS m/e: 603.3 (M+H)+.

reactant | 2-fluoro-5-(trifluoromethyl)phenol | FC1=C(C=C(C=C1)C(F)(F)F)O | C7H4F4O
reactant | N-(3-(1-[6-(2-fluorophenyl)-6-hydroxyhexyl]-4-piperidinyl}phenyl)-2-methylpropanamide | FC1=C(C=CC=C1)C(CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C27H37FN2O2
reactant | HCl | Cl | ClH
product | N-[3-(1-{6-(2-FLUOROPHENYL)-6-[2-FLUORO-5-(TRIFLUOROMETHYL)PHENOXY]HEXYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | FC1=C(C=CC=C1)C(CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC1=C(C=CC(=C1)C(F)(F)F)F | C34H39F5N2O2
